US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-2,5-dimethoxyaniline
2,5-Dimethoxyaniline (0.172 g, 1.125 mmol), triethylamine (0.114 g, 1.125 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.190 g, 1.125 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.281 g, 0.750 mmol) and the resulting solution was stirred at room temperature for 4 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=95:5) to obtain the titled compound (0.149 g, 0.292 mmol, 39%).

reactant | 2,5-Dimethoxyaniline | 1.125 mmol, 0.172 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | triethylamine | 1.125 mmol, 0.114 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.125 mmol, 0.190 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.750 mmol, 0.281 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-2,5-dimethoxyaniline | 0.292 mmol, 0.149 g, 39% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)OC)OC)C1)OC(C)=O)C)=O | C27H27NO9
